US07989634B2
Intermediate 201: (2R)-2-(BOC)amino-N-(3-oxo-azetidine-1-yl)-3-(4-chlorophenyl)propionamide
(2R)-2-(BOC)Amino-N-(3-hydroxyazetidine-1-yl)-3-(4-chlorophenyl)propionamide (3.54 g, 10 mmol) was placed in a round-bottomed flask, filled with nitrogen, and DCM (30 mL) and oxalyl chloride (872 μl, 10 mmol) were added. The mixture was cooled to −78-C, and DMSO (709 μl, 10 mmol) was added. The reaction solution was stirred for 3 h keeping the temperature below −50° C. The reaction mixture was quenched by addition of TEA and warmed to rt. The reaction solution was diluted with a saturated aqueous NH4Cl solution, and the organic material was extracted with EtOAc. The extracts was dried over MgSO4 and concentrated in vacuo, and the residue was purified by column chomatography (eluent: EtOAc/Hex=1/3) to give the title compound (2.88 g, 84%).

reactant | (2R)-2-(BOC)Amino-N-(3-hydroxyazetidine-1-yl)-3-(4-chlorophenyl)propionamide | 10 mmol, 3.54 g | C(=O)(OC(C)(C)C)N[C@@H](C(=O)NN1CC(C1)O)CC1=CC=C(C=C1)Cl | C17H24ClN3O4
reactant | oxalyl chloride | 10 mmol, 872 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 10 mmol, 709 μl | CS(=O)C | C2H6OS
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-(BOC)amino-N-(3-oxo-azetidine-1-yl)-3-(4-chlorophenyl)propionamide | 2.88 g, 84% | C(=O)(OC(C)(C)C)N[C@@H](C(=O)NN1CC(C1)=O)CC1=CC=C(C=C1)Cl | C17H22ClN3O4
